US07115609B2
1-[N-(Indole-6-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride
Prepared from 1-[(γ-methyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride and indole-6-carboxylic acid using methods substantially equivalent to General Coupling Method 1. Ester deprotection with 2 eq LiOH and final purification and HCl salt formation via prep HPLC.

reactant | 1-[(γ-methyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride | Cl.Cl.CC(C[C@@H](N)C(=O)N1CCC(CC1)C1CCN(CC1)C)C(O)=O
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | LiOH | 2 eq | [Li+].[OH-]
reactant | HCl | Cl | ClH
product | 1-[N-(Indole-6-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride | Cl.N1C=CC2=CC=C(C=C12)C(=O)N[C@H](CCC(O)=O)C(=O)N1CCC(CC1)C1CCN(CC1)C | InChI=1S/C25H34N4O4.ClH/c1-28-12-7-17(8-13-28)18-9-14-29(15-10-18)25(33)21(4-5-23(30)31)27-24(32)20-3-2-19-6-11-26-22(19)16-20;/h2-3,6,11,16-18,21,26H,4-5,7-10,12-15H2,1H3,(H,27,32)(H,30,31);1H/t21-;/m1./s1
